Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal cramping
 
Major Surgical or Invasive Procedure:
___ - Colonoscopy, colonic mass biopsies

 
History of Present Illness:
Ms. ___ is a ___ old woman with a history of a
colonic tumor in the past s/p (likely) R hemicolectomy with
ileocolonic anastomosis, who presents to the ED as a transfer
from an OSH after her children and granddaughter brought her 
back
in after she had left AMA from that OSH on ___ after a
diagnosis of small bowel obstruction. She had stated at that 
time
that she did not want any procedures or interventions, and
insisted on going home. Her children and granddaughter were
called in from out of state because she was told that this was
very dangerous such that her bowel could rupture and she could
die. They then flew in and brought her back to the hospital
today. 
She states that on and off for the past three weeks or so, she
has been having abdominal cramping, diarrhea, vomiting. She
states that the diarrhea and vomiting have since improved in the
past week, but that the abdominal cramping got worse, which is
what brought her to the ED on ___. She states that for the
past three days she has had no flatus or bowel movement, but
today she is now passing flatus and having some diarrhea again.
She is not nauseous. She has not noted and fevers/chills at 
home.
She has not had any unexplained weight loss. 
Upon our evaluation in the ED, she does not have any pain. Of
note, her last colonoscopy was ___ years ago, and she states that
she has not needed one since.
Of note, she was told at the OSH that she could potentially
undergo a stent for this finding of bowel obstruction and that
the transfer was so that they could do a stent procedure at a
tertiary ___. She has stated that she does not want any
kind of surgery or ostomy.
 
Past Medical History:
osteoarthritis of knees, colonic mass s/p (likely) R 
hemicolectomy with ileocolonic anastomosis, cholecystectomy 
(many years ago)
 
Social History:
___
Family History:
non-contributory, parents died of old age
 
Physical Exam:
Physical Exam:
V/S: T98.1, HR65, BP126/66, RR16, Sat98%RA
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR, No M/G/R
PULM: Clear to auscultation b/l, No W/R/R
ABD: Soft, nondistended, nontender, no rebound or guarding, no
palpable masses
Ext: No ___ edema, ___ warm and well perfused
 
Pertinent Results:
___ 06:18AM BLOOD WBC-12.1* RBC-3.33* Hgb-9.3* Hct-30.2* 
MCV-91 MCH-27.9 MCHC-30.8* RDW-16.4* RDWSD-55.1* Plt ___
___ 05:55AM BLOOD WBC-7.5 RBC-3.79* Hgb-10.6* Hct-34.1 
MCV-90 MCH-28.0 MCHC-31.1* RDW-16.1* RDWSD-53.1* Plt ___
___ 01:29AM BLOOD WBC-8.4 RBC-3.75* Hgb-10.4* Hct-32.9* 
MCV-88 MCH-27.7 MCHC-31.6* RDW-15.6* RDWSD-50.3* Plt ___
___ 01:29AM BLOOD Neuts-75.0* Lymphs-16.6* Monos-7.0 
Eos-0.7* Baso-0.2 Im ___ AbsNeut-6.28* AbsLymp-1.39 
AbsMono-0.59 AbsEos-0.06 AbsBaso-0.02
___ 06:10AM BLOOD ___ PTT-28.4 ___
___ 06:18AM BLOOD Glucose-99 UreaN-10 Creat-0.7 Na-141 
K-4.1 Cl-108 HCO3-22 AnGap-11
___ 01:29AM BLOOD Glucose-92 UreaN-14 Creat-0.8 Na-143 
K-3.1* Cl-106 HCO3-23 AnGap-14
___ 05:55AM BLOOD Glucose-115* UreaN-9 Creat-0.7 Na-145 
K-4.0 Cl-111* HCO3-23 AnGap-11
___ 01:29AM BLOOD ALT-18 AST-18 AlkPhos-114* TotBili-0.2
___ 06:18AM BLOOD Calcium-8.6 Phos-2.3* Mg-1.7
___ 01:29AM BLOOD Albumin-2.7* Calcium-8.9 Phos-2.3* Mg-1.8
___ 05:55AM BLOOD CEA-13.5*
___ 01:46AM BLOOD Lactate-1.3 K-2.6*
 
Brief Hospital Course:
The patient presented to Emergency Department on ___ after 
AMA from OSH for small bowel obstruction. By the time she came 
to ___, her abdominal cramping was resolving, and she was 
passing flatus and had loose bowel movement. She was admitted to 
Acute Care Surgery service for non-surgical management of 
resolving small bowel obstruction.

Neuro: The patient was alert and oriented throughout 
hospitalization; pain was initially managed with IV 
acetaminophen and then transitioned to oral acetaminophen once 
tolerating a diet. 

CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.

Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization. 

GI/GU/FEN: The patient was initially kept NPO. While NGT was 
attempted, placement failed multiple times and no NGT was 
placed.  On HD2, she had colonoscopy performed by GI. Two 
colonic masses were found in the sigmoid colon and multiple 
biopsies were taken. Multiple diverticula were found. After the 
procedure her diet was slowly advanced from clears to regular 
home diet. Patient's intake and output were closely monitored. 
Electrolytes were monitored and replenished appropriately. 

ID: The patient's fever curves were closely watched for signs of 
infection, of which there were none.

HEME: The patient's blood counts were closely watched for signs 
of bleeding, of which there were none.

Prophylaxis: The patient received subcutaneous heparin and ___ 
dyne boots were used during this stay and was encouraged to get 
up and ambulate as early as possible.

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet, 
ambulating using walker, voiding without assistance, and pain 
was well controlled.  The patient received discharge teaching 
and follow-up instructions with understanding verbalized and 
agreement with the discharge plan.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 325 mg PO Q6H:PRN Pain - Mild 

 
Discharge Medications:
1.  Acetaminophen 325 mg PO Q6H:PRN Pain - Mild  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Small bowel obstruction
Colonic mass, likely neoplasm
Pulmonary nodules
Diverticulosis
Thyroid nodules
Hypokalemia
Hypomagnesaemia
Hypophosphatemia
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

You were presented to ___ 
Emergency ___ on ___ given concerns for small bowel 
obstruction. You were admitted for small bowel obstruction and 
workup for colonic mass. Nodules of indeterminate nature were 
found in your lungs from the CT scan. The small bowel 
obstruction was treated non-surgically with bowel rest. Your 
small bowel obstruction has now resolved. You are recovering 
well and are now ready for discharge. Please follow the 
instructions below to continue your recovery:

•Get plenty of rest while you’re recovering. Try to get at least 
7 to 9 hours of sleep each night
•Eat a diet high in fiber and low in fat and cholesterol. If you 
are not used to high-fiber diets, begin slowly.
___ plenty of water to help your intestines work well.  


In addition, please follow up with your primary care physician, 
___, on ___ at 10AM, who will assist you in finding 
an oncologist in your area. 
An incidental finding on the CT scan demonstrates several 
thyroid nodules. Please consult your primary care physician for 
ultrasound or further work-up on these thyroid nodules. 

Call your healthcare provider if you have new or worsening:
•Change in bowel habits, such as pain, mucus, diarrhea, 
constipation, or other intestinal problems 
•Abdominal bloating 
•Abdominal pain that goes away and then comes back worse than it 
was
•Nausea or vomiting
•Blood in your bowel movements
•Blood in your vomit 
•Signs of infection around your surgical wound if you had 
surgery. These include: ___ area around the wound is more 
red or painful
___ wound area is very warm to touch
___ have blood, pus, or other fluid coming from the wound 
area
___ have a fever higher than 101.5° F (38.6° C)
___ have chills or muscle aches

It was a pleasure taking care of you,
Your ___ Team
 
Followup Instructions:
___